US07915288B2
Pyridine (5.0 ml, 62 mmol) is added slowly to suspension of 2-carboxymethyl-4-methoxy-benzoic acid (10 g, 48 mmol) in acetic anhydride (80 ml) at 0° C. After stirring for 16 h, ether (100 ml) is added. The resulting solid is collected and dried to give 10 g of 4-acetyl-6-methoxy-isochroman-1,3-dione.

reactant | Pyridine | 62 mmol, 5.0 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-carboxymethyl-4-methoxy-benzoic acid | 48 mmol, 10 g | C(=O)(O)CC1=C(C(=O)O)C=CC(=C1)OC | C10H10O5
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-acetyl-6-methoxy-isochroman-1,3-dione | 10 g | C(C)(=O)C1C(OC(C2=CC=C(C=C12)OC)=O)=O | C12H10O5
